US04695654
To a solution of 4-benzyloxy-2,2-difluorobutylamine (5.16 g, 20.5 mM) and triethylamine (4.4 g, 43.4 mM) in dry dichloromethane is added toluenesulfonyl chloride (4.14 g, 21.7 moles). The mixture is stirred at room temperature overnight. Additional dichloromethane is added, and the organic phase is washed with 1N HCl folllowed by a water wash. Drying (Na2SO4) and evaporation of the solvent yields a white solid which is dissolved in a small volume of ether. Addition of petroleum ether yields the compound, N-(4-benzyloxy-2,2-difluorobutyl)-p-toluenesulfonamide as white crystals: 7.0 g (92%).

reactant | 4-benzyloxy-2,2-difluorobutylamine | 20.5 mM, 5.16 g | C(C1=CC=CC=C1)OCCC(CN)(F)F | C11H15F2NO
reactant | triethylamine | 43.4 mM, 4.4 g | C(C)N(CC)CC | C6H15N
reactant | toluenesulfonyl chloride | 21.7 moles, 4.14 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | N-(4-benzyloxy-2,2-difluorobutyl)-p-toluenesulfonamide | C(C1=CC=CC=C1)OCCC(CNS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C18H21F2NO3S
